US08003649B2
Benzyl 4-(4-hydroxyphenyl)-5,6-dihydropyridine-1(2H)-carboxylate (37.7 g, 121.86 mmol) and 5% palladium on carbon (7.6 g, 3.57 mmol) in methanol (380 mL) were stirred under an atmosphere of hydrogen at 5 bar and 25° C. for 2 hours. The catalyst was removed by filtration, washed with MeOH and the solvents evaporated. The crude material was triturated with diethyl ether, then the desired product collected by filtration and dried under vacuum to afford 4-(piperidin-4-yl)phenol (20.36 g, 94%) as a solid.

reactant | Benzyl 4-(4-hydroxyphenyl)-5,6-dihydropyridine-1(2H)-carboxylate | 121.86 mmol, 37.7 g | OC1=CC=C(C=C1)C1=CCN(CC1)C(=O)OCC1=CC=CC=C1 | C19H19NO3
catalyst | palladium on carbon | 3.57 mmol, 7.6 g | [Pd] | Pd
solvent | methanol | 380 mL | CO | CH4O
product | 4-(piperidin-4-yl)phenol | 20.36 g, 94% | N1CCC(CC1)C1=CC=C(C=C1)O | C11H15NO
